US08357705B2
N-[1-cyano-2-(1H-indol-3-yl)ethyl]-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide (polar diastereomer)
2-(4-dimethylamino-4-phenylcyclohexylamino)-3-(1H-indol-3-yl)propionamide (polar diastereomer) (1.58 g, 3.92 mmol) was mixed with anhydrous pyridine (20 mL) and dissolved by stirring with reflux. The solution was cooled to room temperature and mixed with anhydrous dichloromethane (20 mL) and triethylamine (6 mL), then cooled to −15° C. and mixed with trifluoroacetic anhydride (2.48 g, 1.64 mL, 11.8 mmol). The mixture was stirred for 3 h at −15° C. The solvent was then removed in a vacuum. The residue was repeatedly mixed with toluol and the solution again concentrated to low volume in a vacuum each time. The residue was dissolved in ethyl acetate (20 mL) and washed with sodium hydrogencarbonate solution (3×20 mL). The organic phase was dried with sodium sulphate and concentrated to low volume in a vacuum. The raw product (1.6 g) was purified by flash chromatography (120 g, 20×4.1 cm) with dichloromethane/methane [95:5+1% NH3 (32% in H2O)].

reactant | 2-(4-dimethylamino-4-phenylcyclohexylamino)-3-(1H-indol-3-yl)propionamide | 3.92 mmol, 1.58 g | CN(C1(CCC(CC1)NC(C(=O)N)CC1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C25H32N4O
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | trifluoroacetic anhydride | 11.8 mmol, 1.64 mL, 2.48 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
product | N-[1-cyano-2-(1H-indol-3-yl)ethyl]-N-(4-dimethylamino-4-phenylcyclohexyl)-2,2,2-trifluoroacetamide | C(#N)C(CC1=CNC2=CC=CC=C12)N(C(C(F)(F)F)=O)C1CCC(CC1)(C1=CC=CC=C1)N(C)C | C27H29F3N4O
